US07544697B2
The methods described in Example 586 were used to hydrogenate 1-[4-amino-2-(2-methoxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2-methylpropan-2-ol (1.75 g, 5.5 mmol) in the presence of platinum (IV) oxide (1.5 g) and trifluoroacetic acid (20 mL) and purify the product with the modification that before recrystallization, the product was also triturated with acetonitrile. 1-[4-Amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-1-yl]-2-methylpropan-2-ol (1.0 g) was obtained as white crystals, mp 163-165° C.

reactant | 1-[4-amino-2-(2-methoxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2-methylpropan-2-ol | 5.5 mmol, 1.75 g | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC(C)(O)C)CCOC | C17H22N4O2
catalyst | platinum (IV) oxide | 1.5 g | [Pt](=O)=O
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[4-Amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-1-yl]-2-methylpropan-2-ol | 1.0 g | NC1=NC=2CCCCC2C=2C1=NN(C2CC(C)(O)C)CCOC | C17H26N4O2
